US06943162B2
4-[2-({4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-[4-(2-pyridinylcarbonyl)-1-piperazinyl]-1,3,5-triazin-2-yl}amino)ethyl]phenol
The title compound was prepared in 46% yield via the procedure outlined for Example 3 using 4-(2-{[4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-(1-piperazinyl)-1,3,5-triazin-2-yl]amino}ethyl)phenol and picolinoyl chloride hydrochloride to give a white glass: 1H NMR (CDCl3, 300 MHz) δ 8.65 (bs, 1H), 7.83 (t, 1H, J=7.5), 7.72 (d, 1H, J=7.5), 7.40 (t, 1H, J=5.7), 7.24-7.21 (m, 2H), 7.12-7.04 (m, 4H), 6.73 (d, 2H, J=8.1), 3.96-3.78 (m, 4H), 3.75-3.55 (m, 6H), 3.10 (s, 3H), 2.80 (t, 2H, J=6.6), 2.65-2.60 (m, 2H), 1.95-1.89 (m, 2H); low resolution MS (ES+) m/e 588 (MH+); TLC (CH2Cl2/EtOAc/MeOH (5:5:1)): Rf=0.62.

reactant | 4-(2-{[4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-(1-piperazinyl)-1,3,5-triazin-2-yl]amino}ethyl)phenol | ClC1=CC=C(C=C1)CCCN(C1=NC(=NC(=N1)N1CCNCC1)NCCC1=CC=C(C=C1)O)C | C25H32ClN7O
reactant | picolinoyl chloride hydrochloride | Cl.N1=C(C=CC=C1)C(=O)Cl
solvent | CH2Cl2 EtOAc MeOH | C(Cl)Cl.CCOC(=O)C.CO
product | 4-[2-({4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-[4-(2-pyridinylcarbonyl)-1-piperazinyl]-1,3,5-triazin-2-yl}amino)ethyl]phenol | 46% yield | ClC1=CC=C(C=C1)CCCN(C1=NC(=NC(=N1)N1CCN(CC1)C(=O)C1=NC=CC=C1)NCCC1=CC=C(C=C1)O)C | C31H35ClN8O2
